US06900215B2
A mixture of 5′-bromo-3′-fluorobiphenyl-2-carbonitrile (5.52 g, 20 mmol), potassium acetate (5.9 g, 60 mmol) and bis(pinacolato)diboron (6.1 g, 24 mmol) in 1,4-dioxane (60 ml) was degassed with nitrogen for 20 min. Dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct (500 mg, 0.6 mmol) was then added and the reaction heated at 90° C. for 24 h. The mixture was cooled to ambient temperature then partitioned between 2N sodium hydroxide and diethyl ether. The aqueous layer was washed with a further portion of diethyl ether and the organics were discarded. The aqueous extract was made acidic (pH 6) with 36% hydrochloric acid and then extracted with diethyl ether. The organic extract was dried over anhydrous magnesium sulfate, filtered and pre-adsorbed onto silica. Purification by dry flash chromatography on silica, eluting with isohexane on a gradient of ethyl acetate (5-10%) afforded 3′-fluoro-5′-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)biphenyl-2-carbonitrile as a colourless viscous oil (4.2 g, 65%) which crystallised on standing: δH (400 MHz, CDCl3) 1.35 (12H, s), 7.36 (1H, ddd, J 8, 2 and 2), 7.46 (1H, ddd, J 8, 8 and 2), 7.52 (1H, dd, J 8 and 2), 7.57 (1H, ddd, J 8, 2 and 2), 7.64 (1H, ddd, J 8, 8 and 2), 7.70-7.72 (1H, m), 7.76 (1H, dd, J 8 and 2).

reactant | 5′-bromo-3′-fluorobiphenyl-2-carbonitrile | 20 mmol, 5.52 g | BrC=1C=C(C=C(C1)C=1C(=CC=CC1)C#N)F | C13H7BrFN
reactant | potassium acetate | 60 mmol, 5.9 g | C(C)(=O)[O-].[K+]
reactant | bis(pinacolato)diboron | 24 mmol, 6.1 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
solvent | 1,4-dioxane | 60 ml | O1CCOCC1 | C4H8O2
catalyst | Dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct | 0.6 mmol, 500 mg | C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C(Cl)Cl.Cl[Pd]Cl.[Fe]
product | 3′-fluoro-5′-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)biphenyl-2-carbonitrile | 4.2 g, 65% | FC=1C=C(C=C(C1)B1OC(C(O1)(C)C)(C)C)C=1C(=CC=CC1)C#N | C19H19BFNO2
